US08236808B2
Step 1: (5)-3-[4-(3-Hydroxy-propyl)-phenoxy]-propane-1,2-diol
To a solution of 3-(4-hydroxyphenyl)-1-propanol (15.0 g, 99 mmol) in acetone (300 mL) is added S-(−)-glycidol (10.0 g, 105 mmol) and potassium carbonate (20.0 g, 145 mmol) and the reaction mixture is heated at reflux for 24 h. The resulting mixture is allowed to cool to RT, filtered and the filtrate is concentrated in vacuo. Purification by column chromatography (SiO2, 0-4% MeOH in DCM) affords the product as a white solid. [M+H]+ 227.

reactant | 3-(4-hydroxyphenyl)-1-propanol | 99 mmol, 15.0 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | potassium carbonate | 145 mmol, 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 300 mL | CC(=O)C | C3H6O
product | (5)-3-[4-(3-Hydroxy-propyl)-phenoxy]-propane-1,2-diol | OCCCC1=CC=C(OC[C@H](CO)O)C=C1 | C12H18O4
